US05872137
Then, 25 g of 4-benzoyloxy-2-chloro-6-methylphenol was dissolved in 250 ml of chloroform, to which 12 g of chloromethyl methyl ether was added, while stirring at 0° C., and 21 g of N-ethyldiisopropylamine was added dropwise. After heating under reflux for 1 hour, the chloroform layer was washed with water, and concentrated. The residue was subjected to silica gel chromatography, which afforded 27.4 g of 3-chloro4-methoxymethoxy-5-methyl-1-benzoyloxybenzene (96% yield).

reactant | 4-benzoyloxy-2-chloro-6-methylphenol | 25 g | C(C1=CC=CC=C1)(=O)OC1=CC(=C(C(=C1)C)O)Cl | C14H11ClO3
reactant | chloromethyl methyl ether | 12 g | COCCl | C2H5ClO
reactant | N-ethyldiisopropylamine | 21 g | C(C)N(C(C)C)C(C)C | C8H19N
solvent | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-chloro4-methoxymethoxy-5-methyl-1-benzoyloxybenzene | 27.4 g, 96% yield | ClC=1C=C(C=C(C1OCOC)C)OC(C1=CC=CC=C1)=O | C16H15ClO4
